US09035073B2
Enantiomer 1 of 3-(3,5-difluorophenyl)-1-ethyl-3-methoxypyrrolidine
To a solution of (+)-3-(3,5-difluorophenyl)-3-methoxypyrrolidine (0.01 g, 0.047 mmol) and triethylamine (13.1 μL, 0.0938 mmol) in tetrahydrofuran (3 ml), was added iodoethane (5.6 μL, 0.070 mmol). The resulting mixture was stirred at ambient temperature for 24 h and then diluted with methanol and analyzed by GCMS and LCMS. Analysis show 64% conversion. MS m/z (relative intensity, 70 eV) 241 (M+, 10), 226 (86), 211 (33), 141 (49), 71 (bp).

reactant | (+)-3-(3,5-difluorophenyl)-3-methoxypyrrolidine | 0.047 mmol, 0.01 g | FC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13F2NO
reactant | triethylamine | 0.0938 mmol, 13.1 μL | C(C)N(CC)CC | C6H15N
reactant | iodoethane | 0.070 mmol, 5.6 μL | ICC | C2H5I
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-(3,5-difluorophenyl)-1-ethyl-3-methoxypyrrolidine | FC=1C=C(C=C(C1)F)C1(CN(CC1)CC)OC | C13H17F2NO
